US09166174B2
(a) Preparation of 1-(4-tert-butylstyryl)naphthalene
An oven-dried 500 ml three-neck round bottom flask was equipped with a magnetic stir bar, addition funnel and nitrogen inlet connector. The flask was charged with (1-napthylmethyl)triphenylphosphonium chloride (12.07 g, 27.5 mmol) and 200 ml of anhydrous THF. Sodium hydride (1.1 g, 25 mmol) was added in one portion. The mixture became bright orange and was left to stir overnight at room temperature. A solution of 4-tert-butyl-benzaldehyde (7.1 g, 25 mmol) in anhydrous THF (30 ml) was added to the addition funnel with a cannula. The aldehyde solution was added to the reaction mixture dropwise over 45 minutes. Reaction was left to stir at room temperature for 24 hours (orange color went away). Silica gel was added to the reaction mixture and volatiles were removed under reduced pressure. The crude product was purified by column chromatography on silica gel using 5-10% dichloromethane in hexanes. The product was isolated as a mixture of cis- and trans-isomers (6.3 g, 89%) and used without separation. The structure was confirmed by 1H NMR.

reactant | (1-napthylmethyl)triphenylphosphonium chloride | 27.5 mmol, 12.07 g | [Cl-].C1(=CC=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Sodium hydride | 25 mmol, 1.1 g | [H-].[Na+]
reactant | 4-tert-butyl-benzaldehyde | 25 mmol, 7.1 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(4-tert-butylstyryl)naphthalene | C(C)(C)(C)C1=CC=C(C=CC2=CC=CC3=CC=CC=C23)C=C1 | C22H22
